US07312342B2
7 g of ethyl 3-bromoindole-7-carboxylate are dissolved in 70 g of NMP, and 4 g of CuCN are added. The mixture is heated to 100-140° C. with stirring. After 3 hours, the mixture is subjected to conventional work-up, giving 3-cyanoindole-7-carboxylic acid.

reactant | ethyl 3-bromoindole-7-carboxylate | 7 g | BrC1=CNC2=C(C=CC=C12)C(=O)OCC | C11H10BrNO2
reactant | CuCN | 4 g | C(#N)[Cu]
solvent | NMP | 70 g | CN1CCCC1=O | C5H9NO
product | 3-cyanoindole-7-carboxylic acid | C(#N)C1=CNC2=C(C=CC=C12)C(=O)O | C10H6N2O2
